US06930185B2
4-(4-Fluorophenyl)-N-[2-(1-pyrrolidinylmethyl)-6-quinolinyl]-1-piperidinecarboxamide
To a solution of the 2-(1-pyrrolidinylmethyl)-6-quinolinylamine (500 mg, 2.2 mmol) obtained in Reference Example 9 and pyridine (0.356 ml, 4.4 mmol) in tetrahydrofuran (11 ml) was added 4-nitrophenyl chloroformate (488 mg, 2.42 mmol) under ice-cooling. After stirred for 30 minutes, the reaction solution was concentrated, and dimethyl sulfoxide (11 ml) was added to the residue. 4-(4-Fluorophenyl)piperidine hydrochloride (569 mg, 2.64 mmol) and a 4N aqueous sodium hydroxide solution (0.66 ml) were added thereto at room temperature while stirring, and the mixture was stirred for 2 hours. Ethyl acetate and water were added, the mixture was extracted, the organic layer was washed with water, and concentrated, and the residue was purified by alumina column chromatography (developing solvent: ethyl acetate) to obtain the titled compound (612 mg) as a colorless powder from ethyl acetate-diisopropyl ether.

reactant | 2-(1-pyrrolidinylmethyl)-6-quinolinylamine | 2.2 mmol, 500 mg | N1(CCCC1)CC1=NC2=CC=C(C=C2C=C1)N | C14H17N3
reactant | pyridine | 4.4 mmol, 0.356 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 2.42 mmol, 488 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-(4-Fluorophenyl)piperidine hydrochloride | 2.64 mmol, 569 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | sodium hydroxide | 4N, 0.66 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Fluorophenyl)-N-[2-(1-pyrrolidinylmethyl)-6-quinolinyl]-1-piperidinecarboxamide | 612 mg | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC=1C=C2C=CC(=NC2=CC1)CN1CCCC1 | C26H29FN4O
